US04532020
In a mixture of propargyl bromide (3.46 g, 29 mmol), zinc powder (2.3 g, 0.035 gram-atom) in tetrahydrofuran (60 ml), trifluoroacetaldehyde (1.9 g, 19 mmol) was added under bubbling. An hour later, the reaction mixture was poured into aqueous 2% HCl solution for a similar treatment to the one used in the above Examples. Distillation gave 1,1,1-trifluoro-4-pentyne-2-ol (b.p.: 95°-96° C.) at a yield of 65%. The above product gave the following analytical data:

reactant | propargyl bromide | 29 mmol, 3.46 g | C(C#C)Br | C3H3Br
reactant | trifluoroacetaldehyde | 19 mmol, 1.9 g | FC(C=O)(F)F | C2HF3O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | zinc | 2.3 g | [Zn] | Zn
product | 1,1,1-trifluoro-4-pentyne-2-ol | yield of 65% | FC(C(CC#C)O)(F)F | C5H5F3O
